### PR TITLE
WIP: Primitive operations fix

### PR DESCRIPTION
**Pull request by mkarup**
Fixes for primitive operations + additional unverified ones

TODO:
- [X] Adapt main helper lemma for primitive operations: Move some stuff into the case for binary operations, admit the operations that haven't already been verified.
- [x] Adapt the typing of primitive operations in instantiation
- [X] Adapt invariant for globals, both in main proof file + instantiation

### CODE REVIEW

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 1]
```diff
@@ -392,117 +392,509 @@ Inductive repr_case_unboxed: localidx -> list (N * list basic_instruction) -> li
...
+      ] ++
+      load_local_i64 y ++
+      load_local_i64 x ++
+      [ BI_relop T_i64 (Relop_i (ROI_lt SX_U))
+      ; BI_if (BT_valtype (Some (T_num T_i32)))
+          (make_carry 0 glob_tmp1)
+          (make_carry 1 glob_tmp1)
+      ])
+
+| Rprim_mulc : forall x y,
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v:564]: could we avoid the duplication for the longer ones like this one (just extract them to a definition)?

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 2]
```diff
@@ -4391,13 +5006,19 @@ Proof.
...
 Qed.
 
-Ltac simpl_int64_modu H :=
-unfold Wasm_int.Int64.modu in H;
-cbn in H;
-rewrite Wasm_int.Int64.Z_mod_modulus_eq in H;
-rewrite Wasm_int.Int64.modulus_twice_half_modulus in H;
-replace 9223372036854775808%Z with Wasm_int.Int64.half_modulus in H by simpl_modulus;
-rewrite Zaux.Zmod_mod_mult in H; try lia.
+Lemma wasm_zero_implies_uint63_zero : forall i,
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v:4949]: move this to utils?

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v [hunk 3]
```diff
@@ -4441,904 +5062,1026 @@ Proof.
...
-        now apply Hstep. }
-      try repeat (split; auto). all: subst fr; auto.
-      now exists wal. } }
-Qed.
+        apply app_trans_const. auto. apply HloadStep'.
+        dostep_nary_eliml 2 1. constructor; now apply rs_binop_success.
+        dostep_nary 2. eapply r_store_success; cbn in Heqw; now rewrite -Heqw. eassumption. }
+      assumption. }
+    { (* lsl *) admit.
+    (* TODO: Needs to be adapted to the new translation which takes the Wasm semantics
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct.v:5884]: Does this say, we're waiting for the fix in WasmCert?

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct_inst.v [hunk 4]
```diff
@@ -297,7 +371,8 @@ Proof.
     prepare_solve_bet; try solve_bet Hcontext'.
     + apply IH2=>//. inv Hrestr'. now inv H1.
     + eapply IH1 in H4; try apply Hunboxed; first (now destruct H4); eauto; try eassumption. inv Hrestr'. inv H1. by constructor.
-Qed.
```
Comment (womeier) [inline theories/CodegenWasm/LambdaANF_to_Wasm_correct_inst.v:300]: is this intentional?

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v (hunk 2 above)
Comment (mkarup) [reply theories/CodegenWasm/LambdaANF_to_Wasm_correct.v:4949]: This relies on the `wasm_i64_prim_related` relation though, which is in `LambdaANF_to_Wasm_correct.v`, so won't this give some sort of circular dependency issue?
Should the relation then be moved into utils? I like having it in the main proof file, as that's where all the other relations are.

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct_inst.v (hunk 4 above)
Comment (mkarup) [reply theories/CodegenWasm/LambdaANF_to_Wasm_correct_inst.v:300]: No

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v (hunk 3 above)
Comment (mkarup) [reply theories/CodegenWasm/LambdaANF_to_Wasm_correct.v:5884]: I think it's probably best to wait until the issue is resolved in WasmCert? Rao said he would look into it. I updated the comment.

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v (hunk 1 above)
Comment (mkarup) [reply theories/CodegenWasm/LambdaANF_to_Wasm_correct.v:564]: I have tried to do it for the carry operations

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v (hunk 2 above)
Comment (womeier) [reply theories/CodegenWasm/LambdaANF_to_Wasm_correct.v:4949]: alright. nevermind.

File: theories/CodegenWasm/LambdaANF_to_Wasm_correct.v (hunk 1 above)
Comment (womeier) [reply theories/CodegenWasm/LambdaANF_to_Wasm_correct.v:564]: yes, that's cool. Does it make sense for more, e.g. for mulc?

**Comment by womeier** [comment]
awesome, you can merge when the CI passed :)
